US06518265B1
Ethyl N-triphenylmethyl-4-piperidineacetate
A suspension of 23.6 g of N-triphenylmethyl-4-piperidineacetic acid, 16.9 g of potassium carbonate and 5.0 ml of ethyl bromide in 230 ml of dried N,N-dimethylformamide was stirred at 90° C. for 5 hours. After cooling, the reaction mixture was added with water and ethyl acetate, and the precipitated crystals were collected by filtration and washed with water to give 20.6 g of colorless crystals. Recrystallization from a mixture of methanol and tetrahydrofuran gave colorless crystals having the melting point of from 165 to 166° C.

reactant | N-triphenylmethyl-4-piperidineacetic acid | 23.6 g | C1(=CC=CC=C1)C(N1CCC(CC1)CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27NO2
reactant | potassium carbonate | 16.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 5.0 ml | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-triphenylmethyl-4-piperidineacetate | 20.6 g | C1(=CC=CC=C1)C(N1CCC(CC1)CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H31NO2
